US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-{[(isopropylamino)carbonyl]oxy}benzyl)propylcarbamate (310)
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate was treated with isopropyl isocyanate/triethylamine/dichloromethane as described in Example 93 to provide the title compound as a solid foam. 1H NMR (DMSO-d6): δ 0.76 (3H, d), 0.82 (3H, d), 0.98 (3H, d), 1.1 (3H, d), 1.35-1.42 (1H, m), 1.90-1.95 (1H, m), 2.4 (1H, t), 2.65-2.80 (3H, m), 2.9-3.0 (2H, m), 3.3-3.4 (1H, m), 3.50-3.63 (6H, m), 3.7 (1H, t), 3.8 (1H, dd), 4.8 (1H, dt), 5.05 (1H, br d), 5.45 (1H, d), 6.18 (2H, s), 6.92 (2H, d), 7.0 (1H, d), 7.18 (2H, d), 7.22 (1H, s), 7.3 (2H, d), 7.58 (1H, d); MS: 678 (MH+); C32H43N3O11S.

reactant | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | isopropyl isocyanate triethylamine dichloromethane | C(C)(C)N=C=O.C(C)N(CC)CC.ClCCl
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-{[(isopropylamino)carbonyl]oxy}benzyl)propylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OC(=O)NC(C)C)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C32H43N3O11S
